US05972963
EXAMPLE 2 2-(1-Benzylpiperidin-4-yl)-3-(4-chlorophenyl)-2,3-dihydrobenzo[d]-isothiazole-1,1-dioxide
To a solution of 19.16 g (58.1 mmol) of N-(1-benzylpiperidin-4-yl)-benzene sulfonamide in 300 mL of dimethoxyethane at 0° C. was added 46.4 mL (116.1 mmol) of a n-butyllithium (2.5 M) slowly via addition funnel. The mixture was stirred using an overhead stirrer for 45 minutes at 0° C., then 9.61 g (63.9 mmol) of p-chlorobenzaldehyde was added in one portion. The mixture was allowed to warm to room temperature, diluted with 1 liter of ethylacetate and washed 2×500 mL of water followed by 500 mL of brine. The organic phase was separated, dried (MgSO4), and concentrated in vacuo. The residue was flash chromatographed over 300 g of silica gel (eluted with ethylacetate:heptane-2:1) to afford 17.3 g of product as an orange paste.

reactant | N-(1-benzylpiperidin-4-yl)-benzene sulfonamide | 58.1 mmol, 19.16 g | C(C1=CC=CC=C1)N1CCC(CC1)NS(=O)(=O)C1=CC=CC=C1 | C18H22N2O2S
reactant | n-butyllithium | 116.1 mmol, 2.5 M, 46.4 mL | C(CCC)[Li]
reactant | p-chlorobenzaldehyde | 63.9 mmol, 9.61 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | dimethoxyethane | 300 mL | C(OC)COC | C4H10O2
solvent | ethylacetate | 1 liter | C(C)OC(C)=O | C4H8O2
product | 2-(1-Benzylpiperidin-4-yl)-3-(4-chlorophenyl)-2,3-dihydrobenzo[d]-isothiazole-1,1-dioxide | 17.3 g | C(C1=CC=CC=C1)N1CCC(CC1)N1S(C2=C(C1C1=CC=C(C=C1)Cl)C=CC=C2)(=O)=O | C25H25ClN2O2S
